Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum 
 
Major Surgical or Invasive Procedure:
Colonoscopy ___ 

 
History of Present Illness:
Ms. ___ is a ___ female with hx of DCIS s/p
lumpectomy in ___, intestinal volvulus s/p repair in ___,
recent colonoscopy on ___ for endoscopic mucosal resection of
polyp presenting with BRPBPR and SBP to ___ in OSH transferred
for further management.

She recently was found to have SSA polyp, and underwent
endoscopic mucosal resection on ___. On ___ evening, she had
blood tainted stools. She also had lightheadedness and some
nausea. No fevers, chills, abdominal pain. She had a total of 
___
bowel movements, each with a few spoons-worth of blood. She
presented to ___ where SBP was found to be
in ___ and Hgb of 13.2. BP improved with IV fluid and she did 
not
receive and blood products. In ___ ED, she had HR in ___,
and BP ___. Hgb was 11.0, and WBC 10.5 with 79.2%
PMNs. She received IV fluids and home lorazepam. GI was 
consulted
and she was admitted to medicine for further management. 

On arrival to the floor, patient reports lightheadedness with
transfer from gurney to bed. She denies and abdominal pain,
n/v/d, or active bowel movements.
 
Past Medical History:
DCIS 
Intestinal volvulus 
 
Social History:
___
Family History:
Breast CA - 3 sisters
___ - brother
Lung CA - brother
 
Physical ___:
ADMISSION PHYSICAL EXAM
======================= 
VS:  98.3  114/75 107 16 96 Ra 
GENERAL: No apparent distress 
HEENT: Anicteric sclera, pink conjunctiva, MMM  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: no gross motor/coordination abnormalities 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 98.8  111/69  76  18  94Ra  
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. 
CARDIAC: Regular rhythm, regular rate, no murmurs/rubs/gallops.  

LUNGS: Clear to auscultation bilaterally 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of
atrophy/hypertrophy. 
SKIN: No evidence of ulcers, rash 
NEUROLOGIC: CN2-12 intact. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:38PM BLOOD WBC-10.5* RBC-3.44* Hgb-11.0* Hct-33.5* 
MCV-97 MCH-32.0 MCHC-32.8 RDW-12.6 RDWSD-44.9 Plt ___
___ 11:38PM BLOOD Neuts-79.2* Lymphs-12.4* Monos-7.2 
Eos-0.3* Baso-0.5 Im ___ AbsNeut-8.32* AbsLymp-1.30 
AbsMono-0.76 AbsEos-0.03* AbsBaso-0.05
___ 11:38PM BLOOD ___ PTT-25.4 ___
___ 11:38PM BLOOD Glucose-102* UreaN-6 Creat-0.5 Na-141 
K-4.3 Cl-109* HCO3-18* AnGap-14

STUDIES
=======
COLONOSCOPY:
At the site of the previous polypectomy, a large ulcer was seen 
with one spot of oozing and two visible vessels. This was 
clearly the site of bleeding. One previous clip was seen.  Five 
endoclips were successfully applied to the cecal polypectomy 
site for the purpose of hemostasis. 2 cc.Epinephrine ___ 
injection was applied for hemostasis with success. A gold probe 
was applied for hemostasis successfully. 

DISCHARGE LABS
==============
___ 07:20AM BLOOD WBC-6.0 RBC-2.82* Hgb-9.0* Hct-26.9* 
MCV-95 MCH-31.9 MCHC-33.5 RDW-13.1 RDWSD-45.7 Plt ___
___ 07:20AM BLOOD Glucose-84 UreaN-6 Creat-0.5 Na-144 K-4.2 
Cl-105 HCO3-27 AnGap-12
___ 07:20AM BLOOD Calcium-8.3* Phos-4.6* Mg-2.0
 
Brief Hospital Course:
HOSPITAL COURSE
===============
___ woman with recent colonoscopy and polyp removal who 
presents with BRBPR and hypotension referred for colonoscopy. 

ACUTE ISSUES
============
# HEMATOCHEZIA 
# ACUTE BLOOD LOSS ANEMIA 
# HYPOTENSION 
The patient presented with hematochezia after endoscopic polyp 
removal on ___. SBP at OSH as low as ___. She was given IVF 
and blood for low blood pressures and tachycardia. She had a 
colonoscopy on ___ with epinephrine injection and clipping 
of bleeding at the site of her polpyectomy. She was monitored 
for any further blood loss and her diet was advanced. On ___ 
hemoglobin was stable at 9.0 and bleeing had stopped, and 
patient was discharged.

TRANSITIONAL ISSUES
===================
[] Patient should undergo repeat colonoscopy with Dr. ___ in 
6 months to assess EMR site
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS insomnia/anxiety 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO QHS insomnia/anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
LOWER GASTROINTESTINAL TRACT BLEED
ACUTE BLOOD LOSS ANEMIA 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being involved in your care.

Why you were admitted to the hospital:
==============================
You were admitted to the hospital because you were having bloody 
bowel movements and low blood pressure. 

What happened in the hospital:
========================
- You were given fluids to increase your blood pressure. 
- You were given blood to replace what you lost in your bowel 
movements. 
- You had a colonoscopy where the source of bleeding was 
repaired. 
- You were closely monitored for any drop in blood counts. 

What to do when you leave the hospital:
==============================
- Attend all of your follow-up appointments. 
- Take your medications as described below. 
- Call ___ at ___ if you notice any bloody bowel 
movements; ask the operator to page the GI fellow on call for 
advice 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___